US06743789B2
6,8-Dichloro-3-(5-cyclopropyl-[1,2,4]oxadiazol-3-yl)-4H-2,5,10b-triaza-benzo[e]azulene
8-Chloro-3-(5-cyclopropyl-[1,2,4]oxadiazol-3-yl)-4,5-dihydro-2,5,10b-triaza-benzo[e]azulen-6-one (0.84 g, 2.5 mmol) was suspended in chlorobenzene (8 mL), N,N-dimethyl-p-toluidine (1.1 mL, 7.4 mmol) and phosphorus oxychloride (0.34 mL, 3.7 mmol) were added and the mixture was refluxed overnight. The resulting solution was evaporated and the residue was purified by chromatography on silica gel in CH2Cl2/acetone 10:1. One obtained a white solid (0.56 g, 63%). mp 200° C. m/z 359(M).

reactant | 8-Chloro-3-(5-cyclopropyl-[1,2,4]oxadiazol-3-yl)-4,5-dihydro-2,5,10b-triaza-benzo[e]azulen-6-one | 2.5 mmol, 0.84 g | ClC1=CC2=C(N3C=NC(=C3CNC2=O)C2=NOC(=N2)C2CC2)C=C1 | C16H12ClN5O2
reactant | N,N-dimethyl-p-toluidine | 7.4 mmol, 1.1 mL | CN(C1=CC=C(C=C1)C)C | C9H13N
reactant | phosphorus oxychloride | 3.7 mmol, 0.34 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chlorobenzene | 8 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 6,8-Dichloro-3-(5-cyclopropyl-[1,2,4]oxadiazol-3-yl)-4H-2,5,10b-triaza-benzo[e]azulene | 0.56 g, 63% | ClC=1C2=C(N3C=NC(=C3CN1)C1=NOC(=N1)C1CC1)C=CC(=C2)Cl | C16H11Cl2N5O
